Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman ___ s/p D&C last month 
for incomplete spontaneous abortion at 12 weeks, who presented 
to ___ with abdominal pain and was transferred to ___ 
due to concern for portal vein thrombosis and possible 
intestinal ischemia. 

She reports that her pain started ___ (3 days ago) and 
gradually worsened until today. The pain was epigastric and 
initially she was concerned it might be due to gallstones. She
states that on ___ and ___ she was able to eat and drink, 
but that she had one episode of vomiting on ___ and then did 
not feel up to eating on ___. She experienced some 
difficulty taking a deep breath due to the pain, but otherwise 
no dyspnea, chest pain, fevers, stool changes, or other 
symptoms. She did not identify any other alleviating or 
aggravating factors. 

She presented to ___, where she underwent a CT scan 
that showed a portal vein thrombosis and possible intestinal 
ischemia. While at ___ she was started on IV fluids 
and on anticoagulation. She states that the contrast worsened 
her nausea and caused her to vomit while at ___. She also 
had some brief chills but no fever around the time of the CT 
scan. 

She also notes that at the time of her miscarriage last month 
she had a lot of bleeding at home before presenting to the 
hospital. Since that time she reports some spotting but no 
significant bleeding. 

While in the ___ ___ she was afebrile with HRs in the ___ 
and BPs in the ___, normal respiratory status. Labs 
notable for a hgb of 7.7, which was down from 9.2 at ___
(after receiving fluids), bicarb 19, lactate 0.4, trop 0.01, 
BUN/cre ___, UCG negative. Pelvic ultrasound showed possible 
retained products of conception. OB/gyn consulted and found no
bleeding on exam, so felt downtrending hemoglobin unlikely to be 
due to gynecologic bleeding and felt there was low concern for 
retained products of conception given lack of fever, 
unremarkable exam, low HCG, and subtlety of imaging finding. ___ 
reviewed the imaging and agreed with the diagnosis of L portal 
vein thrombosis but did not feel the imaging was convincing for 
intestinal ischemia, fitting with the lactate of 0.4. They 
recommended anticoagulation and hydration at this time but may 
consider thrombolysis and/or TIPS. While in the ___ the patient 
received heparin, gentamycin, clindamycin, heparin, Tylenol, and 
morphine. She reports that the morphine helped with the pain 
somewhat. 

She has a FH of thromboembolic disease in multiple maternal 
relatives. She is unaware of ever having undergone thrombophilia 
testing herself

 
Past Medical History:
___
- SAB x 3 with D&C x 1
- TAB x 1 for fetal anomalies 
 
Social History:
___
Family History:
Reports DVT in maternal uncle, and clots in maternal aunt and
grandmother. Mother with cardiac history
 
Physical Exam:
Admission Exam:
___: Alert and in some visible discomfort
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored, limited by splinting
GI: Abdomen soft, non-distended, TTP in epigastrium.  Bowel
sounds present.  No HSM
GU: No CVA/suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: wwp, no edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect

Discharge Exam:
___: Alert and in some visible discomfort
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored, limited by splinting
GI: Abdomen soft, non-distended, TTP in epigastrium.  Bowel 
sounds present.  No HSM
GU: No CVA/suprapubic tenderness
MSK: No swollen or erythematous joints
SKIN: No rashes or ulcerations noted
EXTR: wwp, no edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 01:30AM BLOOD WBC: 7.1 RBC: 2.84* Hgb: 7.7* Hct: 25.4*
MCV: 89 MCH: 27.1 MCHC: 30.3* RDW: 13.7 RDWSD: 45.___ 
___ 03:57AM BLOOD Hct: 24.3* 
___ 01:30AM BLOOD ___: 14.1* PTT: 75.0* ___: 1.3* 
___ 03:57AM BLOOD PTT: 74.0* 
___ 01:30AM BLOOD Glucose: 95 UreaN: 5* Creat: 0.5 Na: 141
K: 3.8 Cl: 107 HCO3: 21* AnGap: 13 
___ 01:30AM BLOOD ALT: 19 AST: 16 AlkPhos: 74 TotBili: 0.2 
___ 01:30AM BLOOD Lipase: 25 
___ 01:30AM BLOOD cTropnT: <0.01 
___ 01:30AM BLOOD Albumin: 3.9 Calcium: 8.5 Phos: 3.4 Mg:
1.8 
___ 01:30AM BLOOD HCG: 8 
___ 01:43AM BLOOD Type: ___ pO2: 149* pCO2: 42 pH: 7.34*
calTCO2: 24 Base XS: -2 Comment: GREEN TOP 
___ 01:43AM BLOOD Lactate: 0.4* 

TVUS ___. Small area of increased color Doppler flow within the
endometrium associated with an echogenic focus is concerning for
possible retained products of conception. 
2. 3.2 cm simple right ovarian cyst. No further follow-up is
necessary. 

Liver ultrasound: ___
1. Left portal vein remains completely occluded.  Main and right 
portal veins
are patent with normal directional flow.
2. Patchy echogenic areas seen throughout the liver may 
represent fatty
infiltration which may be confirmed with MRI
PRESSION:
1. Left portal vein remains completely occluded.  Main and right 
portal veins
are patent with normal directional flow.
2. Patchy echogenic areas seen throughout the liver may 
represent fatty
infiltration which may be confirmed with MRI

 
Brief Hospital Course:
___ year old woman ___ s/p D&C last month for incomplete 
spontaneous abortion at 12 weeks, who presented to ___ 
with abdominal pain and was transferred to ___ due to concern 
for portal vein thrombosis and possible intestinal ischemia.  In 
discussion with ___ the imaging and clinical picture are overall 
reassuring against bowel ischemia.

#Left portal vein thrombosis #Epigastric pain
Suspect recent pregnancy was the trigger, as well as possibly 
underlying thrombophilia. Hepatology and ___  were consulted and 
recommended against intervention.  The patient was treated with 
a heparin drip. A nticardiolipin and beta2glycoprotein were sent 
and are pending. The patient would benefit from outpatient 
hematology evaluation.
Discharge anticoagulation plan. is lovenox bid for now which she 
tolerated well. Lovenox teaching provided prior to discharge. 
She will need to be on systemic anticoagulation for at least 6 
months and should follow up with both liver / hepatology and 
hematology in the outpatient setting. She will need repeat 
imaging in ___ months to ensure patency. 

#Concern for retained POC
Appreciate OB/GYN involvement- per their review do not think 
that she has retained products and risk outweighs benefits of 
procedure at this time
- will continue to monitor

#Anemia - Some worsening of anemia since presentation, which is 
likely dilutional from the fluids she has received and appears 
to have plateaued, although patient with ongoing vaginal 
bleeding. She never required blood transfusion. Recommend repeat 
CBC at follow-up. 

The total time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Xulane (norelgestromin-ethin.estradiol) 150-35 mcg/24 hr 
transdermal DAILY 
2. Prenatal Vitamins 1 TAB PO DAILY 
3. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 60 mg SC Q12H 
RX *enoxaparin [Lovenox] 60 mg/0.6 mL 60 mg SC every twelve (12) 
hours Disp #*60 Syringe Refills:*6 
2.  FoLIC Acid 1 mg PO DAILY  
3.  Prenatal Vitamins 1 TAB PO DAILY  
4.  Xulane (norelgestromin-ethin.estradiol) 150-35 mcg/24 hr 
transdermal DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Portal Vein Thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
It was a pleasure taking care of you during your admission.  You 
were admitted with a blood clot in the portal vein. While you 
were here, you were seen by the interventional radiology team 
and by the liver doctors. We treated you with a blood thinner by 
way of continuous intravenous infusion while you were here but 
we have since transitioned you to twice a day injections under 
the skin. You will need to continue with blood thinner 
medication for at least 6 months. It will be important to follow 
up with both the liver doctors as ___ as hematology or the 
blood specialists. We will help arrange these appointments for 
you.
 
Followup Instructions:
___